US06020357
A mixture of 3-methyl-1-(pyridin-2-yl)-1H-pyrazolecarboxylic acid (7.0483 mmol, 1.63 g) and N-bromosuccinimide (2.51 g, 2.0 eq.) in carbon tetrachloride (40 mL) was stirred at ambient temperature for 18 h. The reaction mixture was filtered through celite to remove solid impurity and washed with carbon tetrachloride (30 mL). The filtrate was evaporated and purified by flash chromatography on a silica gel column (200 g) eluted with 3:1 hexane:ethyl acetate to give 0.258 g of pure 3-methyl-1-(6-bromopyridin-2-yl)-1H-pyrazolecarboxylic acid (12%).

reactant | 3-methyl-1-(pyridin-2-yl)-1H-pyrazolecarboxylic acid | 7.0483 mmol, 1.63 g | CC1(NN(C=C1)C1=NC=CC=C1)C(=O)O | C10H11N3O2
reactant | N-bromosuccinimide | 2.51 g, 2.0 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-methyl-1-(6-bromopyridin-2-yl)-1H-pyrazolecarboxylic acid | 0.258 g, 12% | CC1(NN(C=C1)C1=NC(=CC=C1)Br)C(=O)O | C10H10BrN3O2
